* A25 - P25-derived all-four-low-side event latches, 9% branch
* CONTROL: DV1=0. PERTURBED: DV1=-0.5/+0.5 V on C1 only.
* Compared cases differ only by DV1. The ideal 1-V output source is a shared
* isolation boundary for both cases, not a claim about the unregulated model.
.include ../../../paper_locked/04_component_models/GS61008T_typical_params.lib
.include ../../../paper_locked/04_component_models/GS61008T_commutation_capacitance.lib
.param VIN=48 VO=1 POUT=250 NP=4 NM_SYSTEM=4 NM_INSTANCE=1 FSW=5Meg T={1/FSW}
.param TON={NP*VO/VIN*T} T0=0 PHASE={T/NP}
.param LPHASE=1.466666666666667n IPEAK=125 NEG_FRAC=.09 INEG={NEG_FRAC*IPEAK}
.param CFLY={4*10u+2*4.7u+2*2.2u} COUT={8*220u+32*47u+64*22u}
.param IL1_INIT=-.935685816243 IL2_INIT=4.75555393314 IL3_INIT=41.5782701063 IL4_INIT=84.1447433786
.param RHS={GS61008T_RDS_TYP_25C} RLS={GS61008T_RDS_TYP_25C/2}
.param VG=5 RLOAD={VO*VO/POUT}

VRAIL vin 0 {VIN}
XMOD vin out 0 SCB4P_PERIODIC_SEED
VOUT_BOUNDARY out 0 {VO}

* Initial and final state samples are separated by exactly one P24 period.
.meas tran VC1_I FIND V(xmod:a1,xmod:x1) AT {T0+2p}
.meas tran VC2_I FIND V(xmod:a2,xmod:x2) AT {T0+2p}
.meas tran VC3_I FIND V(xmod:a3,xmod:x3) AT {T0+2p}
.meas tran VO_I FIND V(out) AT {T0+2p}
.meas tran IL1_I FIND I(XMOD:L1) AT {T0+2p}
.meas tran IL2_I FIND I(XMOD:L2) AT {T0+2p}
.meas tran IL3_I FIND I(XMOD:L3) AT {T0+2p}
.meas tran IL4_I FIND I(XMOD:L4) AT {T0+2p}
.meas tran VC1_F FIND V(xmod:a1,xmod:x1) AT {T0+T+2p}
.meas tran VC2_F FIND V(xmod:a2,xmod:x2) AT {T0+T+2p}
.meas tran VC3_F FIND V(xmod:a3,xmod:x3) AT {T0+T+2p}
.meas tran VO_F FIND V(out) AT {T0+T+2p}
.meas tran IL1_F FIND I(XMOD:L1) AT {T0+T+2p}
.meas tran IL2_F FIND I(XMOD:L2) AT {T0+T+2p}
.meas tran IL3_F FIND I(XMOD:L3) AT {T0+T+2p}
.meas tran IL4_F FIND I(XMOD:L4) AT {T0+T+2p}
.meas tran DVC1 PARAM VC1_F-VC1_I
.meas tran DVC2 PARAM VC2_F-VC2_I
.meas tran DVC3 PARAM VC3_F-VC3_I
.meas tran DVO PARAM VO_F-VO_I
.meas tran DIL1 PARAM IL1_F-IL1_I
.meas tran DIL2 PARAM IL2_F-IL2_I
.meas tran DIL3 PARAM IL3_F-IL3_I
.meas tran DIL4 PARAM IL4_F-IL4_I

.options plotwinsize=0 reltol=1e-5 abstol=1e-9 chgtol=1e-16 solver=alt cshunt=1e-15
.save V(xmod:gh1) V(xmod:gh2) V(xmod:gh3) V(xmod:gh4) V(xmod:gl1) V(xmod:gl2) V(xmod:gl3) V(xmod:gl4) V(xmod:st1) V(xmod:st2) V(xmod:st3) V(xmod:st4) V(xmod:x1) V(xmod:x2) V(xmod:x3) V(xmod:x4) V(out) V(xmod:a1,xmod:x1) V(xmod:a2,xmod:x2) V(xmod:a3,xmod:x3) I(XMOD:L1) I(XMOD:L2) I(XMOD:L3) I(XMOD:L4)
.tran 0 {T0+T+5n} 0 5p UIC
.ic V(xmod:a1)=48 V(xmod:x1)=11.999933546 V(xmod:a2)=24 V(xmod:x2)=0.0000857674 V(xmod:a3)=12 V(xmod:x3)=-0.0006048777 V(xmod:x4)=0 V(out)=1

.subckt SCB4P_PERIODIC_SEED vin out g
* Native PULSE gives explicit high-side breakpoints at T/4 origins.
VH1 gh1 g PULSE(0 {VG} {T0} 1p 1p {TON} {T})
VH2 gh2 g PULSE(0 {VG} {T0+PHASE} 1p 1p {TON} {T})
VH3 gh3 g PULSE(0 {VG} {T0+2*PHASE} 1p 1p {TON} {T})
VH4 gh4 g PULSE(0 {VG} {T0+3*PHASE} 1p 1p {TON} {T})

* P24-derived symmetric controller: the next low side supports each active-high
* interval. A leg's own low side is admitted only after its switch node reaches
* zero and is removed at the P24 2% negative-current boundary.
* A25 one-period event-memory controller. At this periodic time origin,
* phase 1 begins in its own high-side interval; phases 2-4 begin with their low
* sides latched as required by P25 Mode 1. High-side timing remains the locked
* fixed P24 interleaving schedule; A25 diagnoses rather than moves those edges.

* Phase 1: admit after H1 turn-off/low-side Coss discharge, retain through the
* other high-side intervals, release after H4 support and the negative target.
.machine 1p
.state P1_WAIT_LOW_ZVS 0
.state P1_LOW_LATCHED 1
.state P1_LOW_RELEASED 2
.rule P1_WAIT_LOW_ZVS P1_LOW_LATCHED (time>TON)*(V(x1)<=0)
.rule P1_LOW_LATCHED P1_LOW_RELEASED (time>3*PHASE+TON)*(I(L1)<=-INEG)
.output (gl1) VG*(state==P1_LOW_LATCHED)
.output (st1) state
.endmachine

* Phase 2 begins latched, releases after H1 support at its negative target,
* then is re-admitted after H2 turns off and its low-side Vds reaches zero.
.machine 1p
.state P2_LOW_PRE 0
.state P2_RELEASED 1
.state P2_LOW_POST 2
.rule P2_LOW_PRE P2_RELEASED (time>TON)*(I(L2)<=-INEG)
.rule P2_RELEASED P2_LOW_POST (time>PHASE+TON)*(V(x2)<=0)
.output (gl2) VG*((state==P2_LOW_PRE)+(state==P2_LOW_POST))
.output (st2) state
.endmachine

* Phase 3 is the same rotation, one PHASE later.
.machine 1p
.state P3_LOW_PRE 0
.state P3_RELEASED 1
.state P3_LOW_POST 2
.rule P3_LOW_PRE P3_RELEASED (time>PHASE+TON)*(I(L3)<=-INEG)
.rule P3_RELEASED P3_LOW_POST (time>2*PHASE+TON)*(V(x3)<=0)
.output (gl3) VG*((state==P3_LOW_PRE)+(state==P3_LOW_POST))
.output (st3) state
.endmachine

* Phase 4 is the same rotation, two PHASE intervals later.
.machine 1p
.state P4_LOW_PRE 0
.state P4_RELEASED 1
.state P4_LOW_POST 2
.rule P4_LOW_PRE P4_RELEASED (time>2*PHASE+TON)*(I(L4)<=-INEG)
.rule P4_RELEASED P4_LOW_POST (time>3*PHASE+TON)*(V(x4)<=0)
.output (gl4) VG*((state==P4_LOW_PRE)+(state==P4_LOW_POST))
.output (st4) state
.endmachine

RGL1_MACHINE gl1 g 1k
RGL2_MACHINE gl2 g 1k
RGL3_MACHINE gl3 g 1k
RGL4_MACHINE gl4 g 1k
RST1 st1 g 1k
RST2 st2 g 1k
RST3 st3 g 1k
RST4 st4 g 1k

SH1 vin a1 gh1 g SWH
CH1_TOTAL vin a1 {CH_TOTAL}
C1 a1 x1 {CFLY} ic=36.000066454
CL1_TOTAL x1 g {CL_TOTAL}
SL1 x1 g gl1 g SWL
L1 x1 out {LPHASE} Rser=1u ic={IL1_INIT}
SH2 a1 a2 gh2 g SWH
CH2_TOTAL a1 a2 {CH_TOTAL}
C2 a2 x2 {CFLY} ic=23.9999142326
CL2_TOTAL x2 g {CL_TOTAL}
SL2 x2 g gl2 g SWL
L2 x2 out {LPHASE} Rser=1u ic={IL2_INIT}
SH3 a2 a3 gh3 g SWH
CH3_TOTAL a2 a3 {CH_TOTAL}
C3 a3 x3 {CFLY} ic=12.0006048777
CL3_TOTAL x3 g {CL_TOTAL}
SL3 x3 g gl3 g SWL
L3 x3 out {LPHASE} Rser=1u ic={IL3_INIT}
SH4 a3 x4 gh4 g SWH
CH4_TOTAL a3 x4 {CH_TOTAL}
CL4_TOTAL x4 g {CL_TOTAL}
SL4 x4 g gl4 g SWL
L4 x4 out {LPHASE} Rser=1u ic={IL4_INIT}

RNUM_A1 a1 g 1G
RNUM_X1 x1 g 1G
RNUM_A2 a2 g 1G
RNUM_X2 x2 g 1G
RNUM_A3 a3 g 1G
RNUM_X3 x3 g 1G
RNUM_X4 x4 g 1G
.model SWH SW(Ron={RHS} Roff=1T Vt=2.5 Vh=0)
.model SWL SW(Ron={RLS} Roff=1T Vt=2.5 Vh=0)
.ends SCB4P_PERIODIC_SEED
.end
